US07795249B2
A solution of 2-(3-pyrazin-2-yl-4,5-dihydro-1H-pyrazol-5-yl)phenol (0.10 g, 4.2 mmol), 5-(2-([(tert-butoxycarbonyl)amino]methyl)phenyl)thiophene-2-carboxylic acid (0.134 g, 4.02 mmol), and EDCI (0.116 g, 6.06 mmol) in DCM (4 mL) was allowed to stir at rt for 6 h. The reaction was quenched by the addition of water and the organic and aqueous solutions were separated. The aqueous solution was extracted with EtOAc. The organic solutions were combined, dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography to give tert-butyl [2-(5-{[5-(2-hydroxyphenyl)-3-pyrazin-2-yl-4,5-dihydro-1H-pyrazol-1-yl]carbonyl}-2-thienyl)benzyl]carbamate (0.50 g, 23%). LCMS: (FA) ES+ 556.2.

reactant | 2-(3-pyrazin-2-yl-4,5-dihydro-1H-pyrazol-5-yl)phenol | 4.2 mmol, 0.10 g | N1=C(C=NC=C1)C1=NNC(C1)C1=C(C=CC=C1)O | C13H12N4O
reactant | 5-(2-([(tert-butoxycarbonyl)amino]methyl)phenyl)thiophene-2-carboxylic acid | 4.02 mmol, 0.134 g | C(C)(C)(C)OC(=O)NCC1=C(C=CC=C1)C1=CC=C(S1)C(=O)O | C17H19NO4S
reactant | EDCI | 6.06 mmol, 0.116 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl [2-(5-{[5-(2-hydroxyphenyl)-3-pyrazin-2-yl-4,5-dihydro-1H-pyrazol-1-yl]carbonyl}-2-thienyl)benzyl]carbamate | 0.50 g, 23% | OC1=C(C=CC=C1)C1CC(=NN1C(=O)C1=CC=C(S1)C1=C(CNC(OC(C)(C)C)=O)C=CC=C1)C1=NC=CN=C1 | C30H29N5O4S
